US06727264B1
2-METHYL-N-(3-{1-[(1-METHYL-1H-INDOL-2-YL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Prepared by Procedure F and Scheme R, without HOAc, using 1-methyl-1H-indole-2-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 390.3 (M+H)+.

reactant | 1-methyl-1H-indole-2-carbaldehyde | CN1C(=CC2=CC=CC=C12)C=O | C10H9NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
solvent | HOAc | CC(=O)O | C2H4O2
product | 2-METHYL-N-(3-{1-[(1-METHYL-1H-INDOL-2-YL)METHYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1N(C2=CC=CC=C2C1)C)C | C25H31N3O
